US09371320B2
C) 3-(5-(cyanomethyl)-3-thienyl)-1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile
To a solution of 3-(5-(cyanomethyl)-3-thienyl)-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile (220 mg) in acetonitrile (5 mL) were added sodium iodide (182 mg) and chloro(trimethyl)silane (0.388 mL), and the mixture was stirred at 50° C. for 3 hr. The reaction mixture was allowed to be cooled to room temperature, and filtered, and the obtained solid was washed with acetonitrile and water, and dried under reduced pressure to give the title compound (146 mg).

reactant | 3-(5-(cyanomethyl)-3-thienyl)-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile | 220 mg | C(#N)CC1=CC(=CS1)C1=CN(C2=C1C(=NC=C2C#N)OC)C2CCCC2 | C20H18N4OS
reactant | sodium iodide | 182 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 0.388 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-(5-(cyanomethyl)-3-thienyl)-1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile | 146 mg | C(#N)CC1=CC(=CS1)C1=CN(C2=C1C(NC=C2C#N)=O)C2CCCC2 | C19H16N4OS
